US08138185B2
Preparation of {2-[3-Cyclopentylmethyl-3-(2,5-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid
To {2-[3-cyclopentyl methyl-3-(2,5-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester (250 mg) in 3 ml THF/MeOH 1:1 was added 3 ml of 1 N NaOH and the reaction stirred 1 h at room temperature then evaporated to dryness in vacuo. Addition of 1 N HCl to pH 1 afforded a precipitate, which was filtered, washed with water and dried to give the title compound (188 mg) as a white solid.

reactant | {2-[3-cyclopentyl methyl-3-(2,5-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | 250 mg | C(C)OC(CSC1=CN=C(S1)N(C(=O)N(C1=C(C=CC(=C1)F)F)C1CCCC1)C)=O | C20H23F2N3O3S2
reactant | NaOH | 1 N, 3 ml | [OH-].[Na+]
reactant | THF MeOH | 3 ml | C1CCOC1.CO
product | {2-[3-Cyclopentylmethyl-3-(2,5-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | 188 mg | C1(CCCC1)CN(C(NC=1SC(=CN1)SCC(=O)O)=O)C1=C(C=CC(=C1)F)F | C18H19F2N3O3S2
